US06590047B1
Epoxidation of Unsaturated Double Bonds-containing mCOC
17.2 g of the double bonds-containing mCOC copolymer (containing 15 mol % ENB) obtained from Example 6 and 100 ml of cyclohexene were placed in a 300 ml Schlenk round-bottom bottle wrapped with aluminum foil, and then 1.72 g of 3-chloroperoxybenzoic acid was added to the mCOC/cyclohexane solution. The reaction was conducted in a dark room at room temperature for 2 hours. Then, the reaction mixture was washed with methanol repeatly, filtered, and dried under vacuum. From 1H NMR spectrum, it was observed that the chemical shift of the double bond (5.2 ppm) disappeared and the chemical shift of epoxy group at 3.0 ppm appeared.

reactant | aluminum | [Al] | Al
reactant | 3-chloroperoxybenzoic acid | 1.72 g | ClC=1C=C(C(=O)OO)C=CC1 | C7H5ClO3
reactant | mCOC cyclohexane | C1=CC(=CC(=C1)Cl)C(=O)Cl.C1CCCCC1
product | mCOC | C1=CC(=CC(=C1)Cl)C(=O)Cl | C7H4Cl2O
